US08202856B2
Step 1: Ethyl 1-(2-fluorophenyl)-5-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazole-4-carboxylate
DBU (1.32 ml; 8.82 mmol; 1.10 eq.) was dissolved in DMF (16.5 ml) and put under nitrogen atmosphere. 3-Oxo-3-(tetrahydro-pyran-4-yl)-propionic acid ethyl ester (Pharmacore, 1.767 g; 8.82 mmol; 1.10 eq.) was added to the mixture and it was stirred for 15 min. Then a solution of 1-azido-2-fluorobenzene, prepared according to Platz, M. S. et al. J. Org. Chem. 1989, 54, 5938-5945, (1.1 g; 8.02 mmol; 1 eq.) in DMF (15 mL) was added dropwise to the solution at room temperature. The reaction mixture was stirred at 70° C. for 2 hours. Water (40 mL) was added to the reaction mixture. The aqueous layer was extracted with EtOAc (3×40 mL). Combined organic layers were washed with HCl 0.1N, brine, dried over MgSO4 and concentrated under vacuum giving the title compound as a yellow oil. It was used in the next step without further purification. LC/MS (Method B): 320.2 (M+H)+.

reactant | DBU | 8.82 mmol, 1.32 ml, 1.10 eq. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-Oxo-3-(tetrahydro-pyran-4-yl)-propionic acid ethyl ester | 8.82 mmol, 1.767 g, 1.10 eq. | C(C)OC(CC(C1CCOCC1)=O)=O | C10H16O4
reactant | 1-azido-2-fluorobenzene | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | Water | 40 mL | O | H2O
solvent | DMF | 16.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-(2-fluorophenyl)-5-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazole-4-carboxylate | FC1=C(C=CC=C1)N1N=NC(=C1C1CCOCC1)C(=O)OCC | C16H18FN3O3
